US08017607B2
A mixture of rac-(2S,3S,4S)-2-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-4-(2,2-dimethyl-propyl)-pyrrolidine-3-carbonitrile (84.6 mg, 0.20 mmol) and 1-cyano-4-isocyanato-benzene (Aldrich, 34.7 mg, 0.24 mmol) in CH2Cl2 (2 mL) was stirred at rt for 1 h. The reaction mixture was then concentrated and triturated with EtOAt and the solid was collected to give rac-(2S,3S,4S)-2-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-3-cyano-4-(2,2-dimethyl-propyl)-pyrrolidine-1-carboxylic acid (4-cyano-phenyl)-amide (1st crop, 54.4 mg, 2nd crop, 60.3 mg: 100%;) as a white solid. HRMS (ES+) m/z Calcd for C30H26Cl2F2N4O+H [(M+H)+]: 567.1525, found: 567.1526.

reactant | rac-(2S,3S,4S)-2-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-4-(2,2-dimethyl-propyl)-pyrrolidine-3-carbonitrile | 0.20 mmol, 84.6 mg | ClC=1C(=C(C=CC1)C1NCC(C1(C#N)C1=C(C=C(C=C1)Cl)F)CC(C)(C)C)F | C22H22Cl2F2N2
reactant | 1-cyano-4-isocyanato-benzene | 0.24 mmol, 34.7 mg | C(#N)C1=CC=C(C=C1)N=C=O | C8H4N2O
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | rac-(2S,3S,4S)-2-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-3-cyano-4-(2,2-dimethyl-propyl)-pyrrolidine-1-carboxylic acid (4-cyano-phenyl)-amide | 54.4 mg, 100% | C(#N)C1=CC=C(C=C1)NC(=O)N1C(C(C(C1)CC(C)(C)C)(C#N)C1=C(C=C(C=C1)Cl)F)C1=C(C(=CC=C1)Cl)F | C30H26Cl2F2N4O
